US09233946B2
5-(5-Chloro-1,2,4-thiadiazol-3-yl)-N-[3-(1H-tetrazol-5-yl)phenyl]thiophene-2-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, starting with 5-(5-chloro-1,2,4-thiadiazol-3-yl)thiophene-2-sulfonyl chloride (16.6 mg, 0.055 mmol) and 5-(3-amino-phenyl)tetrazole (8 mg, 0.05 mmol) affording 14.5 mg (68%) of the title compound. MS (ESI+) calcd for C13H8ClN7O2S3 424.959012, found 424.959022.

reactant | 5-(5-chloro-1,2,4-thiadiazol-3-yl)thiophene-2-sulfonyl chloride | 0.055 mmol, 16.6 mg | ClC1=NC(=NS1)C1=CC=C(S1)S(=O)(=O)Cl | C6H2Cl2N2O2S3
reactant | 5-(3-amino-phenyl)tetrazole | 0.05 mmol, 8 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 5-(5-Chloro-1,2,4-thiadiazol-3-yl)-N-[3-(1H-tetrazol-5-yl)phenyl]thiophene-2-sulfonamide | 14.5 mg, 68% | ClC1=NC(=NS1)C1=CC=C(S1)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1 | C13H8ClN7O2S3
